### PR TITLE
[Merged by Bors] - feat(RingTheory): the `coassoc_simps` simp set

### PR DESCRIPTION
**Pull request by erdOne**
From Toric

Co-authored-by: Yaël Dillies <yael.dillies@gmail.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Coalgebra/CoassocSimps.lean [hunk 1]
```diff
@@ -0,0 +1,725 @@
...
+
+open Qq
+namespace CoassocSimps
+
+variable {R A M N P M' N' P' Q Q' : Type*} [CommSemiring R] [AddCommMonoid A] [Module R A]
+    [Coalgebra R A]
+    [AddCommMonoid M] [Module R M] [AddCommMonoid N] [Module R N] [AddCommMonoid P] [Module R P]
+    [AddCommMonoid M'] [Module R M'] [AddCommMonoid N'] [Module R N']
+    [AddCommMonoid P'] [Module R P'] [AddCommMonoid Q] [Module R Q] [AddCommMonoid Q'] [Module R Q']
+    {M₁ M₂ M₃ N₁ N₂ N₃ : Type*} [AddCommMonoid M₁]
```
Comment (joneugster) [inline Mathlib/RingTheory/Coalgebra/CoassocSimps.lean]: why not merge this with the other `Type*` further up?

File: Mathlib/RingTheory/Coalgebra/CoassocSimps.lean [hunk 2]
```diff
@@ -0,0 +1,725 @@
...
+  ext
+  rfl
+
+@[coassoc_simps]
+lemma assoc_comp_map_comm_comp_comul_comp_comul_assoc
+    [Coalgebra R M] (f : M →ₗ[R] N) (h : Q →ₗ[R] M) :
+    α ∘ₗ ((β ∘ₗ δ) ⊗ₘ f) ∘ₗ δ ∘ₗ h = (id ⊗ₘ ((id ⊗ₘ f) ∘ₗ β)) ∘ₗ α ∘ₗ δ ⊗ₘ id ∘ₗ β ∘ₗ δ ∘ₗ h := by
+  simp_rw [← LinearMap.comp_assoc]
+  congr 1
+  simp only [LinearMap.comp_assoc, assoc_comp_map_comm_comp_comul_comp_comul]
```
Comment (joneugster) [inline Mathlib/RingTheory/Coalgebra/CoassocSimps.lean]:
```suggestion
  simp only [coassoc_simps]
```

File: Mathlib/RingTheory/Coalgebra/CoassocSimps.lean [hunk 3]
```diff
@@ -0,0 +1,725 @@
...
+  | _ => return .continue
+
+attribute [coassoc_simps] asssoc_symm_comp_map_simproc
+
+-- This loops when tagged as a simp lemma,
+-- so we turn it into a simproc that only fires when `f₁ ≠ id`.
+lemma asssoc_symm_comp_map_assoc (f₁ : M₁ →ₗ[R] N₁)
+    (f₂₃ : M →ₗ[R] M₂ ⊗[R] M₃) (f : P →ₗ[R] M₁ ⊗[R] M) :
+    α⁻¹ ∘ₗ (f₁ ⊗ₘ f₂₃) ∘ₗ f = ((f₁ ⊗ₘ .id) ⊗ₘ .id) ∘ₗ α⁻¹ ∘ₗ (.id ⊗ₘ f₂₃) ∘ₗ f := by
+  rw [← LinearMap.comp_assoc, asssoc_symm_comp_map]
```
Comment (joneugster) [inline Mathlib/RingTheory/Coalgebra/CoassocSimps.lean]:
```suggestion
  rw [← LinearMap.comp_assoc]
```

File: Mathlib/RingTheory/Coalgebra/CoassocSimps.lean [hunk 4]
```diff
@@ -0,0 +1,725 @@
...
+  | _ => return .continue
+
+attribute [coassoc_simps] assoc_comp_map_simproc
+
+-- This loops when tagged as a simp lemma,
+-- so we turn it into a simproc that only fires when `f₃ ≠ id`.
+lemma assoc_comp_map_assoc (f₃ : M₃ →ₗ[R] N₃)
+    (f₁₂ : M →ₗ[R] M₁ ⊗[R] M₂) (f : P →ₗ[R] M ⊗[R] M₃) :
+    α ∘ₗ (f₁₂ ⊗ₘ f₃) ∘ₗ f = (id ⊗ₘ (id ⊗ₘ f₃)) ∘ₗ α ∘ₗ (f₁₂ ⊗ₘ id) ∘ₗ f := by
+  rw [← LinearMap.comp_assoc, assoc_comp_map]
```
Comment (joneugster) [inline Mathlib/RingTheory/Coalgebra/CoassocSimps.lean]:
```suggestion
  rw [← LinearMap.comp_assoc]
```

File: Mathlib/RingTheory/Coalgebra/CoassocSimps.lean [hunk 5]
```diff
@@ -0,0 +1,725 @@
...
+lemma TensorProduct.map_comp_assoc
+    (f : M →ₗ[R] N) (g : N →ₗ[R] P) (f' : M' →ₗ[R] N') (g' : N' →ₗ[R] P') (φ : M₁ →ₗ[R] M ⊗[R] M') :
+    map g g' ∘ₗ map f f' ∘ₗ φ = map (g ∘ₗ f) (g' ∘ₗ f') ∘ₛₗ φ := by
+  rw [← LinearMap.comp_assoc, TensorProduct.map_comp]
+
+@[coassoc_simps← ]
+lemma TensorProduct.map_map_comp_assoc_eq_assoc
+    (f₁ : M₁ →ₗ[R] N₁) (f₂ : M₂ →ₗ[R] N₂) (f₃ : M₃ →ₗ[R] N₃) (f : M →ₗ[R] M₁ ⊗[R] M₂ ⊗[R] M₃) :
+    f₁ ⊗ₘ (f₂ ⊗ₘ f₃) ∘ₗ α ∘ₗ f = α ∘ₗ ((f₁ ⊗ₘ f₂) ⊗ₘ f₃) ∘ₗ f := by
+  rw [← LinearMap.comp_assoc, ← LinearMap.comp_assoc, TensorProduct.map_map_comp_assoc_eq]
```
Comment (joneugster) [inline Mathlib/RingTheory/Coalgebra/CoassocSimps.lean:98]: Why not write it the other way around and use `@[coassoc_simps]`?

File: Mathlib/RingTheory/Coalgebra/CoassocSimps.lean [hunk 6]
```diff
@@ -0,0 +1,725 @@
...
+  simp only [← LinearMap.comp_assoc]
+  congr 1
+  simp only [coassoc_simps]
+
+lemma map_counit_comp_comul_left [Coalgebra R M] (f : M →ₗ[R] M') :
+    (ε ⊗ₘ f) ∘ₗ δ = (id ⊗ₘ f) ∘ₗ λ⁻¹ := by
+  rw [← LinearMap.lTensor_comp_rTensor, LinearMap.comp_assoc, Coalgebra.rTensor_counit_comp_comul]
+  rfl
+
+lemma map_counit_comp_comul_left_assoc [Coalgebra R M] (f : M →ₗ[R] M') (g : P →ₗ[R] M) :
```
Comment (joneugster) [inline Mathlib/RingTheory/Coalgebra/CoassocSimps.lean:659]: why do you have these lemmas if they aren't tagged and not used anywhere?

File: Mathlib/RingTheory/Coalgebra/CoassocSimps.lean [hunk 7]
```diff
@@ -0,0 +1,725 @@
...
+    (ε ⊗ₘ f) ∘ₗ δ ∘ₗ g = (id ⊗ₘ f) ∘ₗ λ⁻¹ ∘ₗ g := by
+  simp_rw [← LinearMap.comp_assoc, map_counit_comp_comul_left]
+
+lemma map_counit_comp_comul_right [Coalgebra R M] (f : M →ₗ[R] M') :
+    (f ⊗ₘ ε) ∘ₗ δ = (f ⊗ₘ id) ∘ₗ ρ⁻¹ := by
+  rw [← LinearMap.rTensor_comp_lTensor, LinearMap.comp_assoc, Coalgebra.lTensor_counit_comp_comul]
+  rfl
+
+lemma map_counit_comp_comul_right_assoc [Coalgebra R M] (f : M →ₗ[R] M') (g : P →ₗ[R] M) :
```
Comment (joneugster) [inline Mathlib/RingTheory/Coalgebra/CoassocSimps.lean:668]: (same for this one)

**Review by joneugster — COMMENTED** [review]
Thank you for the PR! I think this is a very useful algorithm to have.

The simprocs looks good to me (detailed explanation below, in case this helps anybody).

All the existing lemmas which are tagged are quite straight forward to check the reason they are tagged. I find it harder to understand why the set of added lemmas is sufficient and required for the algorithm...

I have a few remaining comments.

## simproc details

The simprocs might look quite taunting but they are indeed all doing what they claim: the important parts are

```lean4
-- match LHS of the lemma
~q((TensorProduct.rid «$R» «$M'»).toLinearMap ∘ₗ ($f ⊗ₘ $g)) => 
```

followed by

```lean4
-- skip if `f = id`
| LinearMap.id _ _ _ _ _ => return .continue
```

and

```lean4
-- replace with RHS of the lemma
(.mk q($f ∘ₗ (TensorProduct.rid $R _).toLinearMap ∘ₗ (.id ⊗ₘ $g)) 
```

File: Mathlib/RingTheory/Coalgebra/CoassocSimps.lean (hunk 6 above)
Comment (erdOne) [reply Mathlib/RingTheory/Coalgebra/CoassocSimps.lean:659]: As mentioned in the module docstring, they are not tagged because they are non-confluent but they are often really useful in parallel with this simproc.

File: Mathlib/RingTheory/Coalgebra/CoassocSimps.lean (hunk 5 above)
Comment (erdOne) [reply Mathlib/RingTheory/Coalgebra/CoassocSimps.lean:98]: Because this coincides with the direction of `TensorProduct.map_map_comp_assoc_eq`.

File: Mathlib/RingTheory/Coalgebra/CoassocSimps.lean (hunk 1 above)
Comment (erdOne) [reply Mathlib/RingTheory/Coalgebra/CoassocSimps.lean]: Good catch! merged.

File: Mathlib/RingTheory/Coalgebra/CoassocSimps.lean [hunk 8]
```diff
@@ -0,0 +1,725 @@
...
+  TensorProduct.tensorTensorTensorComm TensorProduct.AlgebraTensorModule.tensorTensorTensorComm
+  TensorProduct.AlgebraTensorModule.congr_eq LinearEquiv.comp_symm_assoc
+  LinearEquiv.symm_comp_assoc TensorProduct.rightComm_def TensorProduct.leftComm_def
+  TensorProduct.comm_symm TensorProduct.comm_comp_comm TensorProduct.comm_comp_comm_assoc
+
+attribute [coassoc_simps← ] TensorProduct.map_comp TensorProduct.map_map_comp_assoc_eq
+  TensorProduct.map_map_comp_assoc_symm_eq
+
+@[coassoc_simps]
+lemma TensorProduct.map_comp_assoc
```
Comment (joneugster) [inline Mathlib/RingTheory/Coalgebra/CoassocSimps.lean:89]:
```suggestion
lemma TensorProduct.map_comp_map_comp
```
?

File: Mathlib/RingTheory/Coalgebra/CoassocSimps.lean [hunk 9]
```diff
@@ -0,0 +1,725 @@
...
+  rw [← LinearMap.comp_assoc, ← LinearMap.comp_assoc, TensorProduct.map_map_comp_assoc_eq]
+
+@[coassoc_simps← ]
+lemma TensorProduct.map_map_comp_assoc_symm_eq_assoc
+    (f₁ : M₁ →ₗ[R] N₁) (f₂ : M₂ →ₗ[R] N₂) (f₃ : M₃ →ₗ[R] N₃) (f : M →ₗ[R] M₁ ⊗[R] (M₂ ⊗[R] M₃)) :
+    (f₁ ⊗ₘ f₂) ⊗ₘ f₃ ∘ₗ α⁻¹ ∘ₗ f = α⁻¹ ∘ₗ (f₁ ⊗ₘ (f₂ ⊗ₘ f₃)) ∘ₗ f := by
+  rw [← LinearMap.comp_assoc, ← LinearMap.comp_assoc, TensorProduct.map_map_comp_assoc_symm_eq]
+
+@[coassoc_simps]
+lemma assoc_comp_map_map_comp
```
Comment (joneugster) [inline Mathlib/RingTheory/Coalgebra/CoassocSimps.lean:107]:
```suggestion
lemma assoc_comp_map_comp_map
```
?

**Review by joneugster — COMMENTED** [review]
~~Now that I returned to this I'm quite confused about your chosen names, as they seem not to represent the statements.~~

~~I've added a few examples below, but could you please check all of them?~~

(EDIT: has been addressed)

File: Mathlib/RingTheory/Coalgebra/CoassocSimps.lean (hunk 8 above)
Comment (erdOne) [reply Mathlib/RingTheory/Coalgebra/CoassocSimps.lean:89]: `_assoc` is the standard naming convention in category theory when turning lemmas like `f ≫ g = fg` into
lemmas like `f ≫ g ≫ h = fg ≫ h`. If the former is named `f_g`, then the latter would be `f_g_assoc`.

File: Mathlib/RingTheory/Coalgebra/CoassocSimps.lean (hunk 9 above)
Comment (erdOne) [reply Mathlib/RingTheory/Coalgebra/CoassocSimps.lean:107]: the `⊗ₘ` symbol is a local notation here, so the LHS is actually
`α ∘ₗ (map ((map f₁ f₂) ∘ₗ f₁₂) f₃)` and `assoc_comp_map_map_comp` should be correct.

File: Mathlib/RingTheory/Coalgebra/CoassocSimps.lean (hunk 8 above)
Comment (joneugster) [reply Mathlib/RingTheory/Coalgebra/CoassocSimps.lean:89]: I see, it's unfortunate this clashes with the `assoc` referring to `TenstorProduct.assoc` in these names

File: Mathlib/RingTheory/Coalgebra/CoassocSimps.lean (hunk 5 above)
Comment (joneugster) [reply Mathlib/RingTheory/Coalgebra/CoassocSimps.lean:98]: Ok 👍  I believe there could be some advantage of turning `map_map_comp_assoc_eq` and `map_map_comp_assoc_symm_eq` around too, but that might certainly be out of scope for this PR!

File: Mathlib/RingTheory/Coalgebra/CoassocSimps.lean [hunk 10]
```diff
@@ -0,0 +1,725 @@
...
+    (f₂₃ : M →ₗ[R] M₂ ⊗[R] M₃) (f : P →ₗ[R] M₁ ⊗[R] M) :
+    α⁻¹ ∘ₗ (f₁ ⊗ₘ f₂₃) ∘ₗ f = ((f₁ ⊗ₘ .id) ⊗ₘ .id) ∘ₗ α⁻¹ ∘ₗ (.id ⊗ₘ f₂₃) ∘ₗ f := by
+  rw [← LinearMap.comp_assoc]
+  simp only [coassoc_simps]
+
+/-- Simproc version of `asssoc_symm_comp_map_assoc` that only fires when `f₁ ≠ id`. -/
+simproc_decl asssoc_symm_comp_map_assoc_simproc
+    ((TensorProduct.assoc _ _ _ _).symm.toLinearMap ∘ₗ (_ ⊗ₘ _) ∘ₗ _) := .ofQ fun _ _ e ↦ do
+  match_expr e with
+  | LinearMap.comp R _ _ P _ T₂ _ _ _ instP _ _ instRP _ _ _ _ _ _ _ e' => do
```
Comment (Paul-Lez) [inline Mathlib/RingTheory/Coalgebra/CoassocSimps.lean]: Would something like this work here and below? (just to avoid all the indentation)
```suggestion
  let_expr LinearMap.comp R _ _ P _ T₂ _ _ _ instP _ _ instRP _ _ _ _ _ _ _ e' ← e | return .continue
```

**Review by joneugster — APPROVED** [review]
I've spent a moment trying to understand the suggestion Andrew posted. I think you can get a bit further by adding universes levels as in

```lean4
  match u, t with
  | .succ v, ~q(@LinearMap.{_, _, v, _} $R $R $instR $instR _ $T₁ $T₂ $instT₁ $instT₂ $instRT₁ $instRT₂) =>
```

but I also didn't get it to work. Moreover, I got the impression this is mostly a stylistic suggestion which might reduce the number of lines and (maybe?) could come with a marginal performance increase, but otherwise it seems to me the suggestion is not having that much of an impact.

Therefore I think it would be best to get this PR moving and suggest

maintainer merge

**Comment by riccardobrasca** [comment]
Let's move on. We can always improve this later. Thanks!

bors d+

**Comment by erdOne** [comment]
Thanks!
bors merge
